US08633173B2
3-[(2-Chloro-[1,2,4]triazolo[1,5-a]pyridin-8-ylamino)-methyl]-pyrrolidine-1-carboxylic acid tert-butyl ester was prepared from 8-bromo-2-chloro-[1,2,4]triazolo[1,5-a]pyridine (500.0 mg, 2.151 mmol) and 3-aminomethyl-pyrrolidine-1-carboxylic acid tert-butyl ester (475.0 mg, 2.372 mmol) in a manner analogous to Example 2d. Product isolated as pale yellow viscous oil (0.544 g, 72%). 1H NMR (400 MHz, CDCl3, δ, ppm): 7.88 (d, J=6.6 Hz, 1H), 6.89 (t, J=7.3 Hz, 1H), 6.72 (d, J=7.9 Hz, 1H), 4.98 (br s, 1H), 3.65-3.08 (m, 6H), 2.64-2.51 (m, 1H), 2.15-2.05 (m, 1H), 1.80-1.65 (m, 1H), 1.47 (s, 9H).

reactant | 8-bromo-2-chloro-[1,2,4]triazolo[1,5-a]pyridine | 2.151 mmol, 500.0 mg | BrC=1C=2N(C=CC1)N=C(N2)Cl | C6H3BrClN3
reactant | 3-aminomethyl-pyrrolidine-1-carboxylic acid tert-butyl ester | 2.372 mmol, 475.0 mg | C(C)(C)(C)OC(=O)N1CC(CC1)CN | C10H20N2O2
product | 3-[(2-Chloro-[1,2,4]triazolo[1,5-a]pyridin-8-ylamino)-methyl]-pyrrolidine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CC(CC1)CNC=1C=2N(C=CC1)N=C(N2)Cl | C16H22ClN5O2
